US06544985B2
3-(2-Methyl-5-propyl-oxazol-4-yl)-benzoic acid methyl ester (0.47 g) was treated with lithium tert.-butyl acetate according to the general procedure K (method b) to give crude 3-[3-(2-methyl-5-propyl-oxazol-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (0.58 g) as a light-brown oil.

reactant | 3-(2-Methyl-5-propyl-oxazol-4-yl)-benzoic acid methyl ester | 0.47 g | COC(C1=CC(=CC=C1)C=1N=C(OC1CCC)C)=O | C15H17NO3
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-[3-(2-methyl-5-propyl-oxazol-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.58 g | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1N=C(OC1CCC)C)=O | C20H25NO4
